US08080580B2
(4S,5S)-3,4,5-tris-benzyloxy-2-[3-(4-chloro-benzyl)-4-fluoro-phenyl]-6,6-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran-2-ol (I-12i)
n-Butyl lithium (1.0 mL, 2.5 M/hexanes, 3.1 equivalents) was added dropwise (1 drop every 5 seconds) to an oxygen degassed solution (placed in a pre dried Biotage™ microwave vial 10-20 mL sealed with its cap and placed under a positive stream of nitrogen gas) of 4-Bromo-2-(4-chloro-benzyl)-1-fluoro-benzene (702 mg, 2.9 equivalents) in anhydrous tetrahydrofuran (3.0 mL) at −78° C. and the resulting solution was stirred at this temperature for 25 minutes. A solution of (2R,3S,4S)-2,3,4-tris-benzyloxy-5-hydroxy-6-(4-methoxy-benzyloxy)-5-(4-methoxy-benzyloxymethyl)-hexanoic acid methoxy-methyl-amide (I-1g) (621 mg) in anhydrous tetrahydrofuran (1.5 mL) was then added dropwise using a syringe pump (0.9 mL/hour) and the resulting mixture was stirred at low temperature for an additional 17 hours (placed in a deep Dewar covered with aluminum foil to maintain cold temperature; size of Dewar: external diameter 10 cm, internal diameter 8 cm, height 9 cm). The reaction was quenched by dropwise addition of aqueous 1M hydrochloric acid solution (1.5 mL). The resulting biphasic mixture was stirred at room temperature for 30 minutes. The mixture was diluted with saturated aqueous ammonium chloride (15 mL) and was extracted with ethyl acetate (15 mL×3). The combined organic solution was washed with brine (30 mL), dried over magnesium sulfate, filtered and concentrated. Chromatography over silica gel using a gradient of 10 to 40% ethyl acetate in heptane gave the product as a mixture of isomers (477 mg, 64% yield).

reactant | n-Butyl lithium | 2.5 M, 1.0 mL, 3.1 equivalents | C(CCC)[Li]
reactant | oxygen | O=O | O2
reactant | 4-Bromo-2-(4-chloro-benzyl)-1-fluoro-benzene | 702 mg, 2.9 equivalents | BrC1=CC(=C(C=C1)F)CC1=CC=C(C=C1)Cl | C13H9BrClF
reactant | (2R,3S,4S)-2,3,4-tris-benzyloxy-5-hydroxy-6-(4-methoxy-benzyloxy)-5-(4-methoxy-benzyloxymethyl)-hexanoic acid methoxy-methyl-amide | 621 mg | CON(C([C@@H]([C@H]([C@@H](C(COCC1=CC=C(C=C1)OC)(COCC1=CC=C(C=C1)OC)O)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)C | C46H53NO10
reactant | aluminum | [Al] | Al
reactant | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | (4S,5S)-3,4,5-tris-benzyloxy-2-[3-(4-chloro-benzyl)-4-fluoro-phenyl]-6,6-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran-2-ol | 64% yield | C(C1=CC=CC=C1)OC1C(OC([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)(COCC1=CC=C(C=C1)OC)COCC1=CC=C(C=C1)OC)(O)C1=CC(=C(C=C1)F)CC1=CC=C(C=C1)Cl | C57H56ClFO9
